US07935815B2
Synthesis of Ethyl 5-chloro-2-(2-trifluoromethylphenyl)pentanimidoate hydrochloride
5-Chloro-2-(2-trifluoromethylphenyl)pentanenitrile (2.0 g, 7.64 mmol) was dissolved in ethanol (5.36 mL, 91.72 mmol) at room temperature under nitrogen atmosphere. Then, the solution was cooled to 0° C. Acetyl chloride (4.34 mL, 61.14 mmol) was added dropwise to the solution, and the reaction mixture was stirred at room temperature for 67 hours. The reaction mixture was cooled to 10° C. Traces of seed crystal of the title compound which was obtained by the method similar to this step and tert-butylmethylether (hereinafter referred to as “MTBE”) (40 mL) were added to the reaction mixture and the reaction mixture was stirred. The solid was collected by filtration, washed with MTBE to obtain the title compound (2.14 g, 81.6% yield).

reactant | 5-Chloro-2-(2-trifluoromethylphenyl)pentanenitrile | 7.64 mmol, 2.0 g | ClCCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C12H11ClF3N
reactant | ethanol | 91.72 mmol, 5.36 mL | C(C)O | C2H6O
reactant | Acetyl chloride | 61.14 mmol, 4.34 mL | C(C)(=O)Cl | C2H3ClO
solvent | tert-butylmethylether | C(C)(C)(C)OC | C5H12O
product | Ethyl 5-chloro-2-(2-trifluoromethylphenyl)pentanimidoate hydrochloride | Cl.ClCCCC(C(OCC)=N)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C14H17ClF3NO.ClH/c1-2-20-13(19)11(7-5-9-15)10-6-3-4-8-12(10)14(16,17)18;/h3-4,6,8,11,19H,2,5,7,9H2,1H3;1H
